US04349684
8-[2-Oxo-4-phenyl-3-(3-trifluoromethylphenyl)-4-imidazolin-1-yl] caprylic acid methyl ester
The product is produced as described in example 1 from 1.41 g of NaH (80% suspension in mineral oil), 14.3 g of 5-phenyl-1-(3-trifluoromethylphenyl)-4-imidazolin-2-one, 100 cc. of DMF, 11.1 g of 8-bromocaprylic acid methyl ester and 1.41 g of NaJ.

reactant | NaH | 1.41 g | [H-].[Na+]
reactant | 5-phenyl-1-(3-trifluoromethylphenyl)-4-imidazolin-2-one | 14.3 g | C1(=CC=CC=C1)C1=CNC(N1C1=CC(=CC=C1)C(F)(F)F)=O | C16H11F3N2O
reactant | 8-bromocaprylic acid methyl ester | 11.1 g | COC(CCCCCCCBr)=O | C9H17BrO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 8-[2-Oxo-4-phenyl-3-(3-trifluoromethylphenyl)-4-imidazolin-1-yl] caprylic acid methyl ester | COC(CCCCCCCN1C(N(C(=C1)C1=CC=CC=C1)C1=CC(=CC=C1)C(F)(F)F)=O)=O | C25H27F3N2O3
